US06977263B2
A solution of 3-bromobenzylbromide (7.5 g, 30 mmol) and di-tert-butyliminodicarboxylate (6.5 g, 30 mmol) in anhydrous tetrahydrofuran (80 ml) was treated portionwise with sodium hydride (1.2 g, 60% dispersion in mineral oil). After stirring at ambient temperature for 7 hours the reaction mixture was partitioned between saturated aqueous ammonium chloride solution (90 ml) and ethyl acetate (2 lots of 250 ml). The combined organic layers were washed with brine (75 ml ), then dried over magnesium sulfate and then concentrated under vacuum. The residue was subjected to chromatography on silica gel eluting with a mixture of pentane and dichloromethane (2:1, v/v) to give 3-[N,N-bis-(tert-butoxycarbonyl)aminomethyl]-bromobenzene as a pale yellow oil (9.52 g). A sample of this material (2.0 g, 5.2 mmol) was dissolved in anhydrous dimethylsulfoxide (30 ml) and the solution was treated with potassium acetate (1.52 g, 15.5 mmol), bis(pinacolato)diboron (1.45 g, 5.7 mmol), and [1,1′-bis-(diphenylphosphino)ferroceno]-dichloropalladium (II)-dichloromethane complex (0.13 g, 0.16 mmol). This mixture was stirred at 80° C. under an atmosphere of nitrogen for 5 hours, then cooled and then partitioned between water (100 ml) and diethyl ether (4 lots of 75 ml). The combined organic layers were washed twice with brine (75 ml), then dried over magnesium sulfate and then concentrated under vacuum. The residue was subjected to chromatography on silica gel eluting with a mixture of pentane and dichloromethane (2:1, v/v) to give B-{3-[N,N-bis-(tert-butoxycarbonyl)-aminomethyl]-phenyl}-pinacolato-boron as a colorless oil (1.08 g). 1H NMR (CDCl3, 500 MHz): δ 7.78 (s, 1H), 7.70 (m, 1H), 7.39 (m, 1H), 7.30 (m, 1H), 4.79 (s, 2H), 1.27 (s, 18H), 1.35 (s, 12H). MS(EI): 434(M++H).

reactant | 3-bromobenzylbromide | 30 mmol, 7.5 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | di-tert-butyliminodicarboxylate | 30 mmol, 6.5 g | CC(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | sodium hydride | 1.2 g | [H-].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-[N,N-bis-(tert-butoxycarbonyl)aminomethyl]-bromobenzene | 9.52 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)Br | C17H24BrNO4
